US08357706B2
To a stirring solution of (S)-5-azido-5,6,7,8-tetrahydronaphthalene-1-carbonitrile INT-6 (3.1 g, 15.63 mmol) in MeOH (50 mL) were added 10% Pd/C (500 mg), (Boc)2O (6.83 g, 31.27 mmol) and Et3N (3.16 g, 31.27 mmol). The reaction mixture was purged and flushed with H2 (3×) and stirred under H2. After 3 h the mixture was filtered through celite, rinsing with MeOH. The MeOH filtrate was concentrated, dissolved in EA and washed with NaHCO3 and brine. The organic layer was dried (MgSO4), concentrated and chromatographed (EA/hexanes). The resulting material was crystallized from hexanes to provide 3.45 g (81%) of (S)-tert-butyl (5-cyano-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate INT-8 as a white solid. LCMS-ESI (m/z) calculated for C16H20N2O2: 272.34; found 156.1 [M−NHBoc]+, tR=3.77 min. 1H NMR (400 MHz, CDCl3) δ 7.60 (d, J=7.8 Hz, 1H), 7.53 (d, J=7.5 Hz, 1H), 7.31-7.20 (m, 1H), 4.86 (s, 1H), 4.75 (d, J=8.9 Hz, 1H), 3.06-2.85 (m, 2H), 2.07 (dt, J=11.3, 5.1 Hz, 1H), 1.91 (s, 2H), 1.86-1.71 (m, 1H), 1.48 (s, 9H). 13C NMR (101 MHz, CDCl3) δ 155.38, 140.70, 139.12, 133.03, 131.63, 126.41, 117.62, 112.42, 79.62, 48.25, 29.75, 28.28, 27.77, 19.36. Chiral HPLC: (S)-tert-butyl (5-cyano-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate was eluted with 2.5% EtOH/hexanes: 92.4% ee, tR=14.22 min.

reactant | (S)-5-azido-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | N(=[N+]=[N-])[C@@H]1C=2C=CC=C(C2CCC1)C#N | C11H10N4
reactant | (Boc)2O | 31.27 mmol, 6.83 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 31.27 mmol, 3.16 g | CCN(CC)CC | C6H15N
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | (S)-tert-butyl (5-cyano-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate | 3.45 g, 81% | C(#N)C1=C2CCC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C16H20N2O2
